US08039463B2
A mixture of toluene (15 mL) and water (5 mL) was degassed with argon for 5 minutes. Sodium carbonate (0.80 g, 4.54 mmol) was added and the mixture was degassed with argon gas for 5 minutes. Phenyl boronic acid (0.59 g, 4.54 mmol) and 2-chloro-5-nitro-pyridine (0.6 g, 3.78 mmol) were added and the mixture was again degassed with argon gas for 5 minutes. Tetrakis palladium triphenyl phosphine (0.88 g, 0.76 mmol) was added and the mixture was degassed with argon gas for 5 minutes. The resulting mixture was heated to reflux for 3 hours. The mixture was then diluted with ethyl acetate, washed with water then brine solution. The organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford a residue which was purified by column chromatography using silica gel 60-120 mesh (5% ethyl acetate in hexane) to afford 0.5 g (66%) of 5-nitro-2-phenyl-pyridine. LCMS purity: 201 (M+1)+, 98.2%, 1H NMR (DMSO-d6): δ 9.5 (s, 1H), 8.55 (dd, 1H), 8.1 (m, 2H), 7.9 (d, 1H), 7.55 (m, 3H).

reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | Sodium carbonate | 4.54 mmol, 0.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Phenyl boronic acid | 4.54 mmol, 0.59 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-chloro-5-nitro-pyridine | 3.78 mmol, 0.6 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
catalyst | Tetrakis palladium triphenyl phosphine | 0.76 mmol, 0.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd].[Pd].[Pd].[Pd]
solvent | water | 5 mL | O | H2O
product | 5-nitro-2-phenyl-pyridine | 0.5 g, 66% | [N+](=O)([O-])C=1C=CC(=NC1)C1=CC=CC=C1 | C11H8N2O2
